US07301032B2
439 mg of zinc powder and 63 mg of 1,2-dibromoethane was added into 7 ml of tetrahydrofurane under nitrogen atmosphere and the mixture was refluxed for 1 minute. After cooling to room temperature, 36 mg of trimethylsilyl chloride and 3.0 g of 3-ethylcyclohexyl iodide were added to the mixture, and the mixture was stirred for 6 hours at room temperature. Further, 561 mg of 5-chloro-3-methylthio-1,2,4-thiadiazole and 137 mg of {1,1′-bis(diphenylphosphino)ferrocene} dichloro palladium(II) dichloromethane complex were added in the mixture, and the reaction mixture was refluxed for 17 hours. The reaction mixture was concentrated, and the residue subjected to silica gel column chromatography to give 384 mg of 5-(3-ethylcyclohexyl)-3-methylthio-1,2,4-thiadiazole.

reactant | 1,2-dibromoethane | 63 mg | BrCCBr | C2H4Br2
reactant | trimethylsilyl chloride | 36 mg | C[Si](C)(C)Cl | C3H9ClSi
reactant | 3-ethylcyclohexyl iodide | 3.0 g | C(C)C1CC(CCC1)I | C8H15I
reactant | 5-chloro-3-methylthio-1,2,4-thiadiazole | 561 mg | ClC1=NC(=NS1)SC | C3H3ClN2S2
catalyst | zinc | 439 mg | [Zn] | Zn
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | 137 mg | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
solvent | tetrahydrofurane | 7 ml | O1CCCC1 | C4H8O
product | 5-(3-ethylcyclohexyl)-3-methylthio-1,2,4-thiadiazole | 384 mg | C(C)C1CC(CCC1)C1=NC(=NS1)SC | C11H18N2S2
